US04735940
0.6 g of 3,4-dihydro-thieno[2,3-f][1,4]thiazepine-5(2H)-thione and 1.0 g of α-(tosylhydrazono)phenylacetyl chloride were stirred for a long time in 50 ml of methylene chloride at room temperature and in the presence of 0.84 ml of triethylamine. The solvent was removed in vacuo and the residue was chromatographed on silica gel. There was obtained 5,6-dihydro-8-hydroxy-9-phenyl-thiazolo[3,2-d]thieno[2,3-f][1,4]thiazepinium hydroxide (internal salt) of m.p. 190°-195°.

reactant | 3,4-dihydro-thieno[2,3-f][1,4]thiazepine-5(2H)-thione | 0.6 g | S1CCNC(C2=C1C=CS2)=S | C7H7NS3
reactant | α-(tosylhydrazono)phenylacetyl chloride | 1.0 g | S(=O)(=O)(C1=CC=C(C)C=C1)NN=C(C(=O)Cl)C1=CC=CC=C1 | C15H13ClN2O3S
reactant | triethylamine | 0.84 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 5,6-dihydro-8-hydroxy-9-phenyl-thiazolo[3,2-d]thieno[2,3-f][1,4]thiazepinium hydroxide | [OH-].OC1=C(SC2=[N+]1CCSC1=C2SC=C1)C1=CC=CC=C1 | InChI=1S/C15H11NOS3.H2O/c17-14-12(10-4-2-1-3-5-10)20-15-13-11(6-8-19-13)18-9-7-16(14)15;/h1-6,8H,7,9H2;1H2
